US07291752B2
tert-butyl 3-(dibenzylamino)-3-phenylpropanoate
Under an argon atmosphere, n-butyllithium (0.9 mL, 1.6 M in hexane solution, 1.5 mmol) was added to a solution of N-benzyltrimethylsilylamine (0.3 mL, 1.5 mmol) in toluene (4 mL) at −78° C. over 5 min. After stirring for 0.5 hr, a solution of (1R,2R)-1,2-dimethoxy-1,2-diphenylethane (872 mg, 3.6 mmol) in toluene (2 mL) was added and the mixture was stirred. Thereto was added a solution of tert-butyl cinnamate (204 mg, 1.0 mmol) and chlorotrimethylsilane (0.63 mL, 5.0 mmol) in toluene (2 mL) over 5 min. The mixture was stirred at −20° C. for 0.2 hr, and quenched with a saturated aqueous ammonium chloride solution (1.5 mL). After adding a saturated aqueous sodium hydrogen carbonate solution (20 mL), the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over sodium sulfate, after which it was concentrated and purified by silica gel column chromatography (ethyl acetate/hexane=1/70) to give the title compound as a colorless oil (193 mg, yield 48%).

reactant | n-butyllithium | 1.5 mmol, 1.6 M, 0.9 mL | C(CCC)[Li]
reactant | N-benzyltrimethylsilylamine | 1.5 mmol, 0.3 mL | C(C1=CC=CC=C1)N[Si](C)(C)C | C10H17NSi
reactant | (1R,2R)-1,2-dimethoxy-1,2-diphenylethane | 3.6 mmol, 872 mg | CO[C@@H]([C@@H](C1=CC=CC=C1)OC)C1=CC=CC=C1 | C16H18O2
reactant | tert-butyl cinnamate | 1.0 mmol, 204 mg | C(C=CC1=CC=CC=C1)(=O)OC(C)(C)C | C13H16O2
reactant | chlorotrimethylsilane | 5.0 mmol, 0.63 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 3-(dibenzylamino)-3-phenylpropanoate | 193 mg, yield 48% | C(C1=CC=CC=C1)N(C(CC(=O)OC(C)(C)C)C1=CC=CC=C1)CC1=CC=CC=C1 | C27H31NO2
